US08008295B2
(±)-5-Iodo-3-{[methyl(tetrahydro-2H-pyran-2-ylmethyl)amino]sulfonyl}-1H-indole-2-carboxamide
Following the procedures described in Steps D and E of Example 1, replacing in Step D ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate with ethyl 5-iodo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate, and methylamine hydrochloride with (±)-N-(1-tetrahydro-2H-pyran-2-ylmethyl) -N-methylamine, the title compound was obtained. Proton NMR for the product was consistent with the titled compound. ESI+ MS: 477.99 [M+H]+.

reactant | ethyl 5-chloro-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | ClC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13Cl2NO6S2
reactant | ethyl 5-iodo-3-(chlorosulfonyl)-1-(phenylsulfonyl)-1H-indole-2-carboxylate | IC=1C=C2C(=C(N(C2=CC1)S(=O)(=O)C1=CC=CC=C1)C(=O)OCC)S(=O)(=O)Cl | C17H13ClINO6S2
reactant | methylamine hydrochloride | Cl.CN
reactant | (±)-N-(1-tetrahydro-2H-pyran-2-ylmethyl) -N-methylamine | O1C(CCCC1)CNC | C7H15NO
product | (±)-5-Iodo-3-{[methyl(tetrahydro-2H-pyran-2-ylmethyl)amino]sulfonyl}-1H-indole-2-carboxamide | IC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N(CC1OCCCC1)C | C16H20IN3O4S
